US05047554
Methyl 5-(5-Methyl-1,3,4-oxadiazol-2-yl)-2-thiophenecarboxylate
A stirred suspension of 5-methoxycarbonyl-2-thiophenecarboxylic acid hydrazide (548 mg, 2.74 mmoles) and ethyl acetimidate hydrochloride (372 mg, 3.01 mmoles) in 10 ml of pyridine was refluxed for four hours, cooled to room temperature and evaporated in vacuo. The residual oily solid was dissolved in ethyl acetate and washed with water, 1N hydrochloric acid and sodium bicarbonate. The ethyl acetate was dried (magnesium sulfate) and evaporated in vacuo to a pale tan solid (242 mg, 39%), m.p. 142°-5° C. This material was used directly without further purification. Exact Mass: 224.0253, Calculated: 224.0256; EIMS (m/z): 224 (M+, base), 193 (M+ --CH3O, 33%), 169 (C7H5O3S, 83%); 1HNMR (DMSO-d6) delta, 7.88 (1H, d, J=3.9 Hz), 7.80 (1H, d, J=3.9 Hz), 3.87 (3H, s), 2.58 (3 H, s); ir (potassium bromide): 1705, 1571, 1291, 1101, 751 cm-1.

reactant | 5-methoxycarbonyl-2-thiophenecarboxylic acid hydrazide | 2.74 mmoles, 548 mg | COC(=O)C1=CC=C(S1)C(=O)NN | C7H8N2O3S
reactant | ethyl acetimidate hydrochloride | 3.01 mmoles, 372 mg | Cl.C(C)(OCC)=N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 5-(5-Methyl-1,3,4-oxadiazol-2-yl)-2-thiophenecarboxylate | CC1=NN=C(O1)C1=CC=C(S1)C(=O)OC | C9H8N2O3S
